US04084049
A solution of 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]aminopenam-3-carboxylate (3.6 g) in formamide (40 ml) was added to a solution of sodium bicarbonate (0.66 g) and 5-methyl-1,3,4-thiadiazole-2-thiol (1.1 g) in formamide (60 ml) under ice-cooling, after which the mixture was stirred for 4.5 hours at the same temperature. After the reaction was completed, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with 5% sodium bicarbonate aqueous solution and then with water, dried, after which the solvent was distilled off. The oily residue was subjected to column chromatography on silica gel (110 g) and eluted with chloroform. The eluate was separated into fractions of each 50 ml and after collecting the fractions of the fifteenth and sixteenth, the solvent was distilled off to give oily 2,2,2-trichloroethyl 2-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-2-methyl-6-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]aminopenam-3-carboxylate (0.42 g).

reactant | 2,2,2-trichloroethyl 2-bromomethyl-2-methyl-6-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]aminopenam-3-carboxylate | 3.6 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CN(C(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O)C | C24H27BrCl3N3O6S
reactant | sodium bicarbonate | 0.66 g | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1,3,4-thiadiazole-2-thiol | 1.1 g | CC1=NN=C(S1)S | C3H4N2S2
reactant | water | O | H2O
solvent | formamide | 40 ml | C(=O)N | CH3NO
solvent | formamide | 60 ml | C(=O)N | CH3NO
product | 2,2,2-trichloroethyl 2-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-2-methyl-6-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]aminopenam-3-carboxylate | 0.42 g | CC1=NN=C(S1)SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CN(C(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O)C | C27H30Cl3N5O6S3
